US07629366B2
Under nitrogen to a solution of methyl 4′-[2-[[(2R)-2-(6-chloro-3-pyridyl)-2-hydroxyethyl]amino]ethyl]-1,1′-biphenyl-4-carboxylate (110 mg) in tetrahydrofran (10 ml) was added 1M methylzinc chloride in tetrahydrofran (0.8 ml) and tetrakis(triphenylphosphine)palladium (15.5 mg) at room temperature. The mixture was stirred at 80° C. for 24 hours, and then poured into an aqueous solution (60 ml) of ethylenediaminetetraacetic acid (1 g). The resulting mixture was neutralized with saturated aqueous sodium bicarbonate and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel (chloroform:methanol=100:1) to give methyl 4′-[2-[[(2R)-2-hydroxy-2-(6-methyl-3-pyridyl)ethyl]amino]ethyl]-1,1′-biphenyl-4-carboxylate (41 mg) as a colorless oil.

reactant | methyl 4′-[2-[[(2R)-2-(6-chloro-3-pyridyl)-2-hydroxyethyl]amino]ethyl]-1,1′-biphenyl-4-carboxylate | 110 mg | ClC1=CC=C(C=N1)[C@H](CNCCC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)OC)O | C23H23ClN2O3
reactant | methylzinc chloride | 1M | [Cl-].C[Zn+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | tetrakis(triphenylphosphine)palladium | 15.5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethylenediaminetetraacetic acid | 60 ml, 1 g | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
product | methyl 4′-[2-[[(2R)-2-hydroxy-2-(6-methyl-3-pyridyl)ethyl]amino]ethyl]-1,1′-biphenyl-4-carboxylate | 41 mg | O[C@@H](CNCCC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)OC)C=1C=NC(=CC1)C | C24H26N2O3
